US08134013B2
5-(Hydrazinocarbonyl)thiophene-2-carboxylic acid (4-methylpiperazin-1-yl)amide
Methyl 5-(4-methylpiperazin-1-ylcarbamoyl)thiophene-2-carboxylate (218 mg, 0.77 mmol) in ethanol (60 mL) was refluexed with heating with hydrazine monohydrate (0.40 mL) for 6 hours and allowed to cool to room temperature, and the solvent was evaporated at 40° C. mL of diethyl ether was added to the resulting oil, and the precipitated solid was collected by filtration, washed with water and dried to give 142 mg of the desired product (yield 65%).

reactant | Methyl 5-(4-methylpiperazin-1-ylcarbamoyl)thiophene-2-carboxylate | 0.77 mmol, 218 mg | CN1CCN(CC1)NC(=O)C1=CC=C(S1)C(=O)OC | C12H17N3O3S
reactant | hydrazine monohydrate | 0.40 mL | O.NN
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 5-(Hydrazinocarbonyl)thiophene-2-carboxylic acid (4-methylpiperazin-1-yl)amide | 142 mg, yield 65% | CN1CCN(CC1)NC(=O)C=1SC(=CC1)C(=O)NN | C11H17N5O2S
